US06670054B1
In a 250 milliliter round bottom flask there were added 3,6-dibromocarbazole (5 grams), 50 milliliters of 1,2-dimethoxyethane, phenylboric acid (4.8 grams) dissolved in ethanol, and sodium carbonate (4.2 grams) dissolved in 20 milliliters of water. After the resulting solution was saturated with argon, 0.49 gram of tetrakis-(triphenylphosphine) palladium was added. The reaction mixture was heated to reflux and stirred for 18 hours. The reaction flask was removed from the heat and cooled to room temperature, about 22° C. to about 25° C. The resulting solution was transferred to a separatory funnel, and the organic layer, which contained product, was separated from the aqueous phase. After removal of the organic solvents by evaporation, the residue was subjected to column chromatography on silica gel to yield 3.5 grams of 3,6-diphenyl carbazole as colorless powder product. Its chemical structure was confirmed by Proton IR analysis.

reactant | 3,6-dibromocarbazole | 5 grams | BrC=1C=CC=2NC3=CC=C(C=C3C2C1)Br | C12H7Br2N
reactant | 1,2-dimethoxyethane | 50 milliliters | COCCOC | C4H10O2
reactant | phenylboric acid | 4.8 grams | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | sodium carbonate | 4.2 grams | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | 20 milliliters | O | H2O
catalyst | tetrakis-(triphenylphosphine) palladium | 0.49 gram | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3,6-diphenyl carbazole | 3.5 grams | C1(=CC=CC=C1)C=1C=CC=2NC3=CC=C(C=C3C2C1)C1=CC=CC=C1 | C24H17N
